US04153723
Preparation of N-(2,2-dicyanovinyl)-N-(3,4-dichlorobenzyl)-3,5-bis-trifluoromethyl-aniline
With stirring, 16.8 g of potassium tert-butylate are added by small amounts to a solution of 45.7 g of 3,5-bis-trifluoromethyl-N-(2,2-dicyanovinyl)-aniline in 200 ml of dimethyl sulphoxide. The solution is kept for 4 hours at 40° C. With further stirring, 20.8 ml of 3,4-dichlorobenzyl chloride in 20 ml of dimethyl sulphoxide are added dropwise and the reaction mixture is then stirred for 12 hours at 40° C. The mixture is then poured onto 2 liters of ice and the precipitated product is extracted with chloroform. The chloroform solution is washed with water, dried over sodium sulphate and the chloroform is distilled off. The crude product is chromatographed over a silica gel column with methyl acetate/hexane (1:3 v/v) as eluant, yielding 15 g of the desired product in the form of yellow crystals with a melting point of 102°-103° C.

reactant | potassium tert-butylate | 16.8 g | CC(C)(C)[O-].[K+]
reactant | 3,5-bis-trifluoromethyl-N-(2,2-dicyanovinyl)-aniline | 45.7 g | FC(C=1C=C(NC=C(C#N)C#N)C=C(C1)C(F)(F)F)(F)F | C12H5F6N3
reactant | 3,4-dichlorobenzyl chloride | 20.8 ml | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | dimethyl sulphoxide | 200 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
product | N-(2,2-dicyanovinyl)-N-(3,4-dichlorobenzyl)-3,5-bis-trifluoromethyl-aniline | 15 g | C(#N)C(=CN(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CC(=C(C=C1)Cl)Cl)C#N | C19H9Cl2F6N3
